2167-04-15 06:59:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - 2X TTE with no pericardial effusion EF 40%
   - Drain only with 100mL since being emptied in lab
   - Attempted to extubate but patient was hypercarbic on pressure support
   ([**10-5**]) so had to go back on AC.
   - At around 10pm had a few episodes of NSVT. Then at around 2am had
   Sustained VT with hypotension and a code was called. 3X shock, chest
   compressions, epi, lido, vasopressin, amio bolus and then drip.
   Patient's pulse came back. follow up tte without effusion but EF
   decreased from 40-30%
   - continued amio drip overnight.
   -ABG in am with acidosis so increased rate to 24. Settings 24X515X50%
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/[**Month/Day (1) 83**]
   Amiodarone - 1 mg/[**Month/Day (1) 83**]
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-15**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 37.3
C (99.2
   HR: 78 (55 - 151) bpm
   BP: 118/52(72) {55/34(40) - 323/124(154)} mmHg
   RR: 24 (10 - 37) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,549 mL
                                                                  1,045 mL
   PO:
             TF:
   IVF:
                                                                  3,549 mL
                                                                  1,045 mL
   Blood products:
   Total out:
                                                                    934 mL
                                                                    585 mL
   Urine:
                                                                    620 mL
                                                                    480 mL
   NG:
   Stool:
   Drains:
                                                                    114 mL
                                                                    105 mL
   Balance:
                                                                  2,615 mL
                                                                    460 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 550 (550 - 600) mL
   Vt (Spontaneous): 735 (465 - 735) mL
   PS : 15 cmH2O
   RR (Set): 24
   RR (Spontaneous): 6
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI Deferred: Hemodynamic Instability
   PIP: 26 cmH2O
   Plateau: 18 cmH2O
   SpO2: 100%
   ABG: 7.26/56/227/27/-2
   Ve: 12.9 L/[**Year (4 digits) 83**]
   PaO2 / FiO2: 454
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   252 K/uL
   13.8 g/dL
   226 mg/dL
   1.3 mg/dL
   27 mEq/L
    3.5
   31 mg/dL
   103 mEq/L
   141 mEq/L
   41.3 %
   28.0 K/uL
        [image002.jpg]
                             [**2167-4-14**]  05:53 PM
                             [**2167-4-14**]  06:32 PM
                             [**2167-4-14**]  07:41 PM
                             [**2167-4-14**]  09:26 PM
                             [**2167-4-14**]  10:20 PM
                             [**2167-4-14**]  10:58 PM
                             [**2167-4-15**]  01:37 AM
                             [**2167-4-15**]  01:47 AM
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
   WBC
   12.8
   26.5
   28.0
   Hct
   38.6
   41.1
   41.3
   Plt
   [**Telephone/Fax (3) 6971**]
   Cr
   1.0
   1.3
   TropT
   0.02
   TCO2
   28
   28
   29
   28
   30
   29
   26
   Glucose
   160
   164
   239
   226
   Other labs: PT / PTT / INR:20.8/26.9/2.0, CK / CKMB /
   Troponin-T:/3/0.02, Lactic Acid:1.5 mmol/L, Ca++:8.4 mg/dL, Mg++:2.6
   mg/dL, PO4:4.7 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  Pulsless Sustained V Tach:  Code Blue overnight at 1am,
   cardioverted, pt regained spontaneous circulation.
   - Continue amiodarone
   - Monitor on telemetry closely
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed yesterday.  F/U Echo showed only trivial effusion
   following.
   - continue to hold coumadin for now
   - O2 sat off drain was 96%, likely origin is LA
   - attempt to wean norepinephrine as able
   - Monitor drain output, only 100cc post code
   - TTE today to monitor development, if stable, will pull drain
   .
   #. Hypotension: Likely secondary to tamponade.  However other
   etiologies considered were CHD with poor CO, AF with poor CO,
   hypovolemia from bleeding post-procedure.  BPs have been labile on
   propofol, unable to wean norepinephrine
   - continue norepinephrine, will attempt to wean as able
   - monitor drain output
   - Will check hct and give blood as needed
   - Will have FFP if effusion progresses to reverse coumadin/bleeding
   tendency
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, decrease to 0.5mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to PO
   eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but may be difficult
   extubation currently as must lie flat post-procedure.
   - Will have upright prior to attempting extubation
   - Will wean sedation prior to extubation
   - Will f/u CXR and treat for pulm edema if necessary prior to
   extubation.
   - Will try to extubate today
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition: No IVF currently, NPO, replete lytes PRN,
   Glycemic Control:
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT: Holding anticoagulation in setting of bleed - INR 2 with coumadin
   so systemically anticoagulated.
   Stress ulcer:  PPI while intubated
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  FULL
   Disposition:  CCU
   ------ Protected Section ------
   I reviewed overnight course and events.It appears that AF with RVR
   caused hemodynamic compromise.
   Much better this am.Can be extubated this am.
   Agree with Dr.[**Last Name (STitle) 5077**]
s note.
   Spent 45 mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2167-4-15**] 12:59 ------

2167-04-16 05:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**2167-4-15**]
   - rvr, increased amnio to 1, added dilt po
   - HC+stool, HCT 41-->38
   - cre rose to 2.4 then 3.0; oligouric during the day
   - Fena 0.1, 1500 cc bolus
   Pt had generalized pain and anxiety overnight requiring morphine,
   toradol, ambien and zyprexa.  Still in pain this AM but less anxious.
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-15**] 08:25 PM
   Infusions:
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Other ICU medications:
   Diltiazem - [**2167-4-15**] 05:55 PM
   Morphine Sulfate - [**2167-4-16**] 01:10 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-16**] 05:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.4
   Tcurrent: 36.6
C (97.8
   HR: 94 (78 - 126) bpm
   BP: 109/49(65) {60/34(41) - 165/67(94)} mmHg
   RR: 24 (19 - 36) insp/[**Year (4 digits) 83**]
   SpO2: 98%
   Heart rhythm: A Flut (Atrial Flutter)
             Total In:
                                                                  4,555 mL
                                                                    441 mL
   PO:
                                                                    120 mL
                                                                    100 mL
   TF:
   IVF:
                                                                  3,932 mL
                                                                    341 mL
   Blood products:
                                                                    503 mL
   Total out:
                                                                  1,001 mL
                                                                     70 mL
   Urine:
                                                                    880 mL
                                                                     70 mL
   NG:
   Stool:
   Drains:
                                                                    121 mL
   Balance:
                                                                  3,554 mL
                                                                    371 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 369 (369 - 369) mL
   PS : 5 cmH2O
   RR (Set): 24
   RR (Spontaneous): 26
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 25 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.42/40/85.[**Numeric Identifier 126**]/22/0
   Ve: 12 L/[**Numeric Identifier 83**]
   PaO2 / FiO2: 213
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   182 K/uL
   11.2 g/dL
   163 mg/dL
   3.0 mg/dL
   22 mEq/L
   4.1 mEq/L
   47 mg/dL
   106 mEq/L
   141 mEq/L
   35.2 %
   15.8 K/uL
        [image002.jpg]
                             [**2167-4-15**]  06:08 AM
                             [**2167-4-15**]  06:21 AM
                             [**2167-4-15**]  08:09 AM
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
   WBC
   28.0
   15.8
   Hct
   41.3
   38.1
   33.7
   35.2
   Plt
   252
   182
   Cr
   1.6
   2.4
   3.0
   TCO2
   26
   26
   26
   27
   27
   Glucose
   230
   226
   174
   163
   Other labs: PT / PTT / INR:19.5/28.7/1.8, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:7.7 mg/dL, Mg++:2.3 mg/dL, PO4:6.2 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  s/p  Code Blue for pulseless atrial fibrillation vs VT yesterday
   night: No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   -Has pain likely from chest compressions
 will continue PRN pain
   meds->avoid nsaids given ARF and GIBs
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development of effusion
   - Continue ctx for one more day
   .
   #. Hypotension: Cardiogenic: Initially likely secondary to tamponade,
   but now more likely secondary to a fib with RVR and decreased EF
   unclear etiology may be ischemic, consider cardiac cath when stable.
   Pt also had a Hct drop yesterday from 41 to 36 with guaiac positive
   stools thus could be hypovolemic however hcts since have been stable.
   - wean norepinephrine and start dopa instead for less tachycardia
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   - restart coumadin
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code and
   currently on pressors.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   ICU Care
   Nutrition:  NPO for now
   Glycemic Control:  ISS
   Lines:
   Sheath - [**2167-4-14**] 04:00 PM->remove today
   18 Gauge - [**2167-4-14**] 05:00 PM
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-15**] 12:04 AM
   Prophylaxis:
   DVT:  pneumoboots, heparin gtt today as inr subtherapeutic
   Stress ulcer: PPI IV
   Communication:  with patient and family including sons, [**Name (NI) **] and [**First Name4 (NamePattern1) **]
   [**Last Name (NamePattern1) 36**] status:  FULL
   Disposition:  CCU
   ------ Protected Section ------
   Reviewed course overnight.AF with RVR remains an issue.
   I examined Pt and agree with treatment plan.
   Spent 35mins on case.
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) 6658**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name (NI) 6658**]
   on:[**2167-4-16**] 13:17 ------

2167-04-17 06:10:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 SHEATH - STOP [**2167-4-16**] 11:42 AM
   [**2167-4-16**]:
   - Venous sheath pulled
   - Restarted heparin drip and coumadin following
   - Pt on 3mcg of dopamine, able to be discontinued in the afternoon
   - HR up to the 130's at times, getting PO dilt, attempting IV dilt,
   dilt drip
   - Dr. [**Last Name (STitle) 161**] requested one time additional dose of IV Dig 0.125 as level
   low, check repeat level in AM
   - UA, urine Eos
   - Having green liquid stools - sent for C diff
   - Pt became acutely agitated at 3:30pm, attempted neb for SOB, morphine
   for pain
   - Consulted Renal - likely ATN requesting urine protein crn ratio and
   renal US
   - Decreased UOP overnight
   Allergies:
   Statins: Hmg-Coa Reductase Inhibitors
   myalgia;
   Prednisone
   Confusion/Delir
   Albuterol
   Arrhythmia/Palp
   Last dose of Antibiotics:
   Ceftriaxone - [**2167-4-16**] 11:00 PM
   Infusions:
   Diltiazem - 5 mg/hour
   Amiodarone - 1 mg/[**Year (4 digits) 83**]
   Heparin Sodium - 1,999 units/hour
   Other ICU medications:
   Diltiazem - [**2167-4-16**] 02:35 PM
   Morphine Sulfate - [**2167-4-17**] 03:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2167-4-17**] 06:10 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 36.3
C (97.4
   HR: 71 (56 - 124) bpm
   BP: 119/46(64) {80/39(45) - 137/59(74)} mmHg
   RR: 22 (20 - 32) insp/[**Year (4 digits) 83**]
   SpO2: 100%
   Heart rhythm: AF (Atrial Fibrillation)
             Total In:
                                                                  1,725 mL
                                                                    307 mL
   PO:
                                                                    340 mL
             TF:
   IVF:
                                                                  1,385 mL
                                                                    307 mL
   Blood products:
   Total out:
                                                                    509 mL
                                                                    140 mL
   Urine:
                                                                    509 mL
                                                                    140 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,216 mL
                                                                    167 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: 7.36/38/69/22/-3
   Physical Examination
   Gen: intubated and sedated
   HEENT: NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were pink, no
   pallor or cyanosis of the oral mucosa. No xanthalesma.
   Neck: Supple with JVP of 10 cm.
   CV: PMI located in 5th intercostal space, midclavicular line. RR,
   normal S1, S2. No m/r/g. No thrills, lifts. No S3 or S4.  pericardial
   drain in place.
   Chest: No chest wall deformities, scoliosis or kyphosis. Intubated
   Abd: Soft, NTND. No HSM or tenderness. Abd aorta not enlarged by
   palpation. No abdominial bruits. Midline ventral hernia.
   Ext: No c/c/e.
   Skin: No stasis dermatitis, ulcers, scars, or xanthomas.
   Labs / Radiology
   166 K/uL
   10.0 g/dL
   175 mg/dL
   3.8 mg/dL
   22 mEq/L
   4.2 mEq/L
   69 mg/dL
   104 mEq/L
   138 mEq/L
   29.6 %
   10.7 K/uL
        [image002.jpg]
                             [**2167-4-15**]  09:45 AM
                             [**2167-4-15**]  10:29 AM
                             [**2167-4-15**]  01:45 PM
                             [**2167-4-15**]  06:59 PM
                             [**2167-4-15**]  07:15 PM
                             [**2167-4-15**]  08:55 PM
                             [**2167-4-16**]  03:52 AM
                             [**2167-4-16**]  03:26 PM
                             [**2167-4-16**]  03:35 PM
                             [**2167-4-17**]  03:50 AM
   WBC
   15.8
   10.7
   Hct
   38.1
   33.7
   35.2
   34.3
   29.6
   Plt
   182
   166
   Cr
   2.4
   3.0
   3.4
   3.8
   TCO2
   26
   27
   27
   22
   Glucose
   174
   163
   177
   175
   Other labs: PT / PTT / INR:17.3/94.2/1.6, CK / CKMB /
   Troponin-T:/3/0.02, ALT / AST:82/101, Alk Phos / T Bili:44/0.9, Lactic
   Acid:1.5 mmol/L, Ca++:8.2 mg/dL, Mg++:2.5 mg/dL, PO4:7.5 mg/dL
   Assessment and Plan
   74yo M with with multiple admissions for difficult to control AF with
   RVR admitted from EP lab with pericardial effusion after PVI.
   .
   #  s/p  Code Blue for pulseless atrial fibrillation vs VT yesterday
   night: No subsequent acute events
   - Continue amiodarone
   - Monitor on telemetry closely
   -Has pain likely from chest compressions
 will continue PRN pain
   meds->avoid nsaids given ARF and GIBs
   .
   #. Pericardial Effusion:  With tamponade physiology, hypotension during
   a fib ablation.  Likely from complication of procedure.  Pericardial
   drain placed and pulled. O2 sat off drain was 96%, likely origin was
   LA.  F/U Echo showed only trivial effusion following.
   - continue to hold coumadin for now
   - attempt to wean norepinephrine as able
   - consider TTE today to monitor development of effusion
   - Continue ctx for one more day
   .
   #. Hypotension: Cardiogenic: Initially likely secondary to tamponade,
   but now more likely secondary to a fib with RVR and decreased EF
   unclear etiology may be ischemic, consider cardiac cath when stable.
   Pt also had a Hct drop yesterday from 41 to 36 with guaiac positive
   stools thus could be hypovolemic however hcts since have been stable.
   - wean norepinephrine and start dopa instead for less tachycardia
   - Will check hct and give blood as needed, goal Hct > 30
   - Will monitor for volume overload and poor CO and give lasix as
   needed.
   .
   #. AF with RVR: Patient with long history of difficult to control AF
   and PVI was unable to be performed today given above.
   - continue digoxin for rate control
   - continue amiodarone drip, had to increase to 1mg/[**Last Name (LF) 83**], [**First Name3 (LF) **] change to
   PO eventually
   - monitor HRs on norepinephrine, attempt to wean as able
   - Will likely need a pacemaker eventually with AV node ablation
   - Continue ceflex
   - restart coumadin
   .
   #. Respiratory acidosis, acute on chronic:  Has poor lung function at
   baseline with severe COPD. Intubated for procedure but tolerated
   extubation fine.
   - Monitor closely.
   .
   #  ARF:  FeNa 0.1, did not improve with volume challenge.  Most likely
   renal failure is secondary to ATN from hypotension during code and
   currently on pressors.
   - Continue to monitor renal function
   - Avoid nephrotoxic drugs
   - If does not improve, will consult renal
   .
   #. COPD: Will continue home inhalers once extubated.
   .
   #. DM2: Will have ISS while hospitalized.
   .
   #. HTN: Currently hypotensive so will hold home BP meds.
   .
   #. Communication: With son, [**Name (NI) **], cell:[**Telephone/Fax (1) 6972**]; home:[**Telephone/Fax (1) 6973**]
   )
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2167-4-14**] 06:52 PM
   20 Gauge - [**2167-4-16**] 08:15 AM
   22 Gauge - [**2167-4-16**] 08:15 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: